US07994203B2
Step 1: N-Methoxy-N-methylbenzofuran-5-carboxamide
Benzofuran-5-carbonyl chloride (1 g, 5.54 mmol) in dry DCM (40 ml) is treated with N,O-dimethylhydroxylamine.HCl (0.594 g, 6.09 mmol) followed by triethylamine (1.930 ml, 13.84 mmol). After stirring at RT overnight, the mixture is diluted with DCM and washed with H2O, 1M HCl, 1M NaOH, brine, dried (MgSO4) and evaporated down to give a brown oil which is used without further purification; MS: m/z 206.1 [M+H]+

reactant | Benzofuran-5-carbonyl chloride | 5.54 mmol, 1 g | O1C=CC2=C1C=CC(=C2)C(=O)Cl | C9H5ClO2
reactant | N,O-dimethylhydroxylamine | CNOC | C2H7NO
reactant | HCl | 6.09 mmol, 0.594 g | Cl | ClH
reactant | triethylamine | 13.84 mmol, 1.930 ml | C(C)N(CC)CC | C6H15N
solvent | DCM | 40 ml | C(Cl)Cl | CH2Cl2
product | N-Methoxy-N-methylbenzofuran-5-carboxamide | CON(C(=O)C=1C=CC2=C(C=CO2)C1)C | C11H11NO3
